US04656269
To a solution of 32.3 g of diethyl succinate and 29.0 g of 1-naphthaldehyde in 100 ml of absolute ethanol was added 10.7 g of sodium hydride (50% dispersion in mineral oil) under ice-cooling, and then the mixture was heated under reflux for 0.5 hours. To the reaction was added 230 ml of 1N-aqueous sodium hydroxide solution, and the mixture was heated under reflux for 1 hour. The reaction mixture was evaporated under reduced pressure, and water was added to the residue. The mixture was extracted with diethyl ether to remove neutral substances. The aqueous layer was acidified by adding concentrated hydrochloric acid, and extracted with diethyl ether. The ethereal layer was washed a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. Benzene was added to the residue, and the precipitated crystals were collected by flitration to obtain 26.5 g of 2-(1-naphthylmethylene)succinic acid as yellow crystals.

reactant | diethyl succinate | 32.3 g | C(CCC(=O)OCC)(=O)OCC | C8H14O4
reactant | 1-naphthaldehyde | 29.0 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium hydride | 10.7 g | [H-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(1-naphthylmethylene)succinic acid | 26.5 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CC(=O)O | C15H12O4
